US06903239B2
Preparation of 2-hydroxy-5-(trifluoromethoxy)-N,N-dimethylbenzylamine
130 g of 4-trifluoromethoxyphenol are initially charged in 97 ml of 40% aqueous dimethylamine solution and cooled to 3° C. At 0-5° C., 66 ml of 37% aqueous formaldehyde solution are added dropwise within 45 min. The mixture is kept at 5-10° C. for a further 2 hours and is subsequently stirred at room temperature for 19 hours. It is cooled again to 0° C., 4.9 ml of 40% aqueous dimethylamine solution are added and 3.3 ml of 37% aqueous formaldehyde solution are subsequently added dropwise. The mixture is stirred at room temperature for a further 3 hours. The mixture is admixed with 100 ml of water. The organic phase is removed, the aqueous phase is extracted twice with dichloromethane, the combined organic phases are dried and the solvent is distilled off under reduced pressure. The crude product is subsequently fractionally distilled under reduced pressure. 118 g (69% of theory) of a light yellow liquid having a boiling point of 110-112° C. at 18 mbar were obtained.

reactant | 4-trifluoromethoxyphenol | 130 g | FC(OC1=CC=C(C=C1)O)(F)F | C7H5F3O2
reactant | formaldehyde | 66 ml | C=O | CH2O
reactant | formaldehyde | 3.3 ml | C=O | CH2O
reactant | water | 100 ml | O | H2O
reactant | dimethylamine | 97 ml | CNC | C2H7N
reactant | dimethylamine | 4.9 ml | CNC | C2H7N
product | 2-hydroxy-5-(trifluoromethoxy)-N,N-dimethylbenzylamine | OC1=C(CN(C)C)C=C(C=C1)OC(F)(F)F | C10H12F3NO2
